US06559145B2
Methyl 5-Iodo-2-(methyl(methylsulfonyl)amino)benzoate [BW.3]
To a solution of methyl 5-iodo-2-((methylsulfonyl)amino)benzoate (Preparation 49, 0.50 g) and K2CO3 (0.41 g) in DMF (10 mL) is added iodomethane (0.10 mL) at ambient temperature. After 24 hrs, the solvent is removed in vacuo and the residue is partitioned between Et2O (20 mL) and water (20 mL). The organic layer is separated, dried over MgSO4, filtered, and concentrated in vacuo. The crude yellow liquid is purified by silica gel column chromatography (4/1, hexanes/EtOAc) to afford 0.48 g (92%) of the title compound as a white solid. Physical characteristics: m.p. 105-106° C.; 1H NMR (300 MHz, CDCl3) δ 8.22, 7.86, 7.18, 3.91, 3.27, 2.96; IR (diffuse reflectance) 1718, 1443, 1330, 1289, 1258, 1150, 1056, 970, 964, 957, 888, 839, 772, 732, 712 cm−1; MS (ESI+) m/z 370 (MH+). Anal. Found: C, 32.74; H, 3.30; N, 3.81.

reactant | methyl 5-iodo-2-((methylsulfonyl)amino)benzoate | 0.50 g | IC=1C=CC(=C(C(=O)OC)C1)NS(=O)(=O)C | C9H10INO4S
reactant | K2CO3 | 0.41 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 0.10 mL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 5-Iodo-2-(methyl(methylsulfonyl)amino)benzoate | 0.48 g, 92% | IC=1C=CC(=C(C(=O)OC)C1)N(S(=O)(=O)C)C | C10H12INO4S
